US08497269B2
Step 2: 6-Bromo-1-(2-methylpyrrolidin-1-yl)phthalazine
A mixture of 6-bromo-1-chlorophthalazine (500 mg, 2.0 mmol) and 2-methylpyrrolidine (524 μl, 5.1 mmol) in DMF (3 mL) was heated at 120° C. in an oil bath for 8 h. The mixture was diluted with MeOH and concentrated over silica gel. The residue was purified using column chromatography (0-40% EtOAc in hexanes) to give the title compound as a brown amorphous solid. MS (ESI, pos. ion) m/z: 292.0, 294.0 (M+1).

reactant | 6-bromo-1-chlorophthalazine | 2.0 mmol, 500 mg | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | 2-methylpyrrolidine | 5.1 mmol, 524 μl | CC1NCCC1 | C5H11N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 6-Bromo-1-(2-methylpyrrolidin-1-yl)phthalazine | BrC=1C=C2C=NN=C(C2=CC1)N1C(CCC1)C | C13H14BrN3
